US05610154
1-(8-Aza-bicyclo[3.2.1]oct-8-yl)-2-phenyl-4-[4-(pyridin-2-yl)-piperazin-1-yl]-butan-1-one
The title compound was prepared from 4-(pyridin-2-yl)-piperazine (1.0 g, 6.0 mmole), 1-(8-aza-bicyclo[3.2.1]oct-8-yl)-4-bromo-2-phenyl-butan-1-one (1.6 g, 4.76 mmole), diisopropylethylamine (0.9 g, 7.0 mmole) and potassium iodide (0.8 g, 5.0 mmole) in dimethylformamide (30 mL) in the manner described in example 2 to yield 1.1 g of product as the dihydrochloride, m.p. 196°-236° C.

reactant | 4-(pyridin-2-yl)-piperazine | 6.0 mmole, 1.0 g | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | 1-(8-aza-bicyclo[3.2.1]oct-8-yl)-4-bromo-2-phenyl-butan-1-one | 4.76 mmole, 1.6 g | C12CCCC(CC1)N2C(C(CCBr)C2=CC=CC=C2)=O | C17H22BrNO
reactant | diisopropylethylamine | 7.0 mmole, 0.9 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | potassium iodide | 5.0 mmole, 0.8 g | [I-].[K+]
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 1-(8-Aza-bicyclo[3.2.1]oct-8-yl)-2-phenyl-4-[4-(pyridin-2-yl)-piperazin-1-yl]-butan-1-one | C12CCCC(CC1)N2C(C(CCN2CCN(CC2)C2=NC=CC=C2)C2=CC=CC=C2)=O | C26H34N4O
